US08334236B2
(3) Production of 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)amino-3-pyridinylmethanol
Under a nitrogen gas stream, 1.70 g (41 mmol) of lithium aluminum hydride was added to tetrahydrofuran (100 mL) under ice cooling, and a tetrahydrofuran (30 mL) solution of 9.86 g (34 mmol) of methyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)aminonicotinate was added dropwise to the mixture. Ethyl acetate was added to the reaction mixture, and subsequently, 17 mL of a 10% aqueous solution of sodium hydroxide was added thereto. Insoluble materials were filtered off. The filtrate was concentrated, and the residue was dissolved in ethyl acetate, dried, filtered, and concentrated. Thus, 8.9 g of the title compound was obtained as an orange-colored viscous product (yield: quantitative).

reactant | lithium aluminum hydride | 41 mmol, 1.70 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | methyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)aminonicotinate | 34 mmol, 9.86 g | O1C2=C(OCC1)C=C(C=C2)NC2=C(C(=O)OC)C=CC=N2 | C15H14N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)amino-3-pyridinylmethanol | 8.9 g | O1C2=C(OCC1)C=C(C=C2)NC2=NC=CC=C2CO | C14H14N2O3
